US08372864B2
0.25 g of methyl 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate is dissolved in 5 cm3 of dioxane at a temperature close to 20° C. 1.52 cm3 of a 1M aqueous solution of sodium hydroxide are added, then the reaction mixture is heated at a temperature close to 60° C. for 1 h. The dioxane contained in the reaction mixture is concentrated using a rotary evaporator under reduced pressure (5 kPa). 20 cm3 of ethyl ether and 10 cm3 of water are added to the residue obtained. After decanting, the aqueous phase is acidified with 1.6 cm3 of a 1M aqueous solution of hydrochloric acid. The aqueous phase is extracted with 20 cm3 of dichloromethane. After decanting, the organic phase is dried over magnesium sulfate, filtered then concentrated using a rotary evaporator under reduced pressure (5 kPa). 0.233 g of 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid is obtained in the form of a pale pink powder.

reactant | methyl 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.25 g | CN(C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC)S(=O)(=O)C | C20H30N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 0.233 g | CN(C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O)S(=O)(=O)C | C19H28N2O5S
